US05866684
39.63 g (146 mmol) of diethyl (E)-2-acetamido-2-(2-butenyl)malonate were dissolved in 200 ml of ethanol and a solution of 19.24 g (481 mmol) of sodium hydroxide in 100 ml of water was added. The mixture was stirred for 2 hours at 60° C., evaporated to dryness under a vacuum and theresidue was partitioned between diethyl ether and water. The aqueous phase was acidified with 2M hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over magnesium sulphate and the solvent was removed by evaporation under a vacuum to give 26.1 g of (E)-2-acetamido-2-(2-butenyl)malonic acid as a white solid which was used in the next step without further purification. 1 H NMR (250 MHz, MeOD) δ: 1.65 (d, 3 H), 2.0 (s, 3 H), 2.9 (d, 2 H), 5.25 (m, 1 H), 5.5 (m,1 H).

reactant | diethyl (E)-2-acetamido-2-(2-butenyl)malonate | 146 mmol, 39.63 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)C\C=C\C | C13H21NO5
reactant | sodium hydroxide | 481 mmol, 19.24 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | (E)-2-acetamido-2-(2-butenyl)malonic acid | 26.1 g | C(C)(=O)NC(C(=O)O)(C(=O)O)C\C=C\C | C9H13NO5
